US08067445B2
Step 7: [2′-(1-Ethyl-3-methyl-ureidomethyl)-5,4′-bis-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester
(3-Trifluoromethanesulfonyloxy-5-trifluoromethyl-phenyl)-acetic acid methyl ester (0.063 g, 0.18 mmol), 1-ethyl-3-methyl-1-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-urea (0.070 g, 0.18 mmol, potassium carbonate (0.062 g, 0.45 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.021 g, 0.02 mmol) were combined in 2:1 DME:H2O (3 mL) and degassed with N2 for 10 minutes. The reaction was then stirred at 90° C. for 2 hours, until no starting material was seen by analytical LCMS. The mixture was cooled to room temperature and used directly in the hydrolysis step.

reactant | (3-Trifluoromethanesulfonyloxy-5-trifluoromethyl-phenyl)-acetic acid methyl ester | 0.18 mmol, 0.063 g | COC(CC1=CC(=CC(=C1)C(F)(F)F)OS(=O)(=O)C(F)(F)F)=O | C11H8F6O5S
reactant | 1-ethyl-3-methyl-1-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-urea | C(C)N(C(=O)NC)CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C18H26BF3N2O3
reactant | potassium carbonate | 0.45 mmol, 0.062 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 0.021 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | COCCOC | C4H10O2
product | [2′-(1-Ethyl-3-methyl-ureidomethyl)-5,4′-bis-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C=C(C1)C(F)(F)F)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)NC)CC)=O | C22H22F6N2O3
